US04417917
A solution of 96.4 g of O-benzylhydroxylamine in 80 ml of tetrahydrofuran was added to a solution of 86.8 g of o-nitrobenzenesulfonyl chloride in 400 ml of tetrahydrofuran at 5°-10°. After stirring at ambient temperature for 16 hours the solvent was evaporated. The residue was washed with water, filtered and dried to give 112.6 g of N-(phenylmethoxy)-2-nitrobenzenesulfonamide, m.p. 148°-151°.

reactant | O-benzylhydroxylamine | 96.4 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | o-nitrobenzenesulfonyl chloride | 86.8 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N-(phenylmethoxy)-2-nitrobenzenesulfonamide | 112.6 g | C1(=CC=CC=C1)CONS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H12N2O5S
